US05324833
H-Asn(Trt)-OH
A suspension of 10.2 g of Z-Asn(Trt)-OH (20 mmol) in 120 ml of one-normal aqueous hydrochloric acid is hydrogenated in the presence of 0.5 g of a 10% palladium on charcoal catalyst at room temperature and under atmospheric pressure. After uptake of hydrogen is complete, the catalyst is filtered off and thoroughly washed with methanol, and the filtrate is concentrated under reduced pressure to a weight of 100 g. Addition of 2.8 ml of triethylamine (20 mmol) is followed by further concentration to a weight of 50 g and the crystalline precipitate is filtered off and washed with a 1:1 mixture of methanol and water and then with water until free of chloride. The H-Asn(Trt)-OH contains 0.5 mole of water and slowly decomposes above 220°.

reactant | Z-Asn(Trt)-OH | 20 mmol, 10.2 g | N([C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C31H28N2O5
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | 20 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | water | 0.5 mole | O | H2O
solvent | hydrochloric acid | 120 ml | Cl | ClH
catalyst | palladium on charcoal | [Pd] | Pd
product | H-Asn(Trt)-OH | N[C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O | C23H22N2O3
